US07776897B2
1-(2-Thienyl)cyclopent-3-en-1-carbonitrile and potassium hydroxide were reacted in ethylene glycol under heating to obtain 1-(2-thienyl)cyclopent-3-en-1-carboxylic acid.

reactant | 1-(2-Thienyl)cyclopent-3-en-1-carbonitrile | S1C(=CC=C1)C1(CC=CC1)C#N | C10H9NS
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethylene glycol | C(CO)O | C2H6O2
product | 1-(2-thienyl)cyclopent-3-en-1-carboxylic acid | S1C(=CC=C1)C1(CC=CC1)C(=O)O | C10H10O2S
